US07365067B2
5-Hydroxypentylformamide
2.06 g (20.0 mmol) of 5-amino-1-pentanol was dissolved in 5 mL of ethyl formate and the mixture was stirred at 90° C. for 4 hours. The solvent was distilled off under reduced pressure and the obtained residue was purified by silica gel chromatography (eluting solvent: ethyl acetate/methanol=100/0-70/30) to obtain 1.90 g (yield: 73%) of the title compound as a pale yellow-oil.

reactant | 5-amino-1-pentanol | 20.0 mmol, 2.06 g | NCCCCCO | C5H13NO
reactant | ethyl formate | 5 mL | C(=O)OCC | C3H6O2
product | 5-Hydroxypentylformamide | 1.90 g, yield: 73% | OCCCCCNC=O | C6H13NO2
